US05233073
2,6-di-(4-benzocyclobutenoxy)benzylamine
In a 500 ml, 4-necked round-bottomed flask equipped with an overhead mechanical stirrer, a thermometer/adaptor, a reflux condensor and a funnel was added 2,6-di-(4-benzocyclobutenoxy)benzonitrile followed by 260 ml of anhydrous diethyl ether. The resultant mixture was placed in an ice bath and stirred under a nitrogen atmosphere. When the internal temperature reached 0° C., lithium aluminum hydride was added through the attached funnel in 3 portions (0.69 g, 0.96 g, 0.50 g), each addition followed by washing the funnel with about 10 ml Et2O, over a period of 15 minutes. The resulting mixture was stirred at 0° C. for 20 minutes, then the ice bath was removed and the mixture. was allowed to warm to room temperature. The reaction mixture was then refluxed gently for 17 hours.

reactant | 2,6-di-(4-benzocyclobutenoxy)benzonitrile | C1=CC2=C1C=CC(=C2)OC2=C(C#N)C(=CC=C2)OC2=CC1=C(C=C1)C=C2 | C23H13NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 260 ml | C(C)OCC | C4H10O
product | 2,6-di-(4-benzocyclobutenoxy)benzylamine | C1=CC2=C1C=CC(=C2)OC2=C(CN)C(=CC=C2)OC2=CC1=C(C=C1)C=C2 | C23H17NO2
